US05498695
AcValAlaAsp-p-nitroanilide
t-BOCValAlaAsp-p-nitroanilide (174 mg, 0.33 mmole) was dissolved in neat TFA (5 mL) and stirred at room temperature for 1 hour. The TFA was removed in vacuo and the residue was then dissolved in 5 mL of CH2Cl2 which was then evaporated in vacuo. This dissolution with CH2Cl2 and subsequent evaporation repeated two more times. The residue was dissolved in dioxane/water (5 mL, 4:1 ) and treated with acetic acid N-hydroxysuccinimide ester (63 mg, 0.40 mmole) and NaHCO3 (139 mg, 1.65 mmole). After 18 hours, the mixture was diluted with 1N HCl (25 mL) and extracted three times with ethyl acetate. The combined extracts were dried with MgSO4, filtered and concentrated to a yellow solid which was recrystallized from ethyl acetate/ethanol to give 33 mg (21%) of light yellow powder: mp 196°-200° C. (dec.); 1H NMR (DMSO-d6) δ 0.80 (d, J=6.6 Hz, 3H), 0.82 (d, J=5.1 Hz, 3H), 1.20 (d, J=7.2 Hz, 3H), 1.85 (s, 3H), 1.85-2.0 (m, 1H), 2.60 (dd, J=7.5, 16.6 Hz, 1H), 2.75 (dd, J=6.2, 16.6 Hz, 1H), 4.1-4.2 (m, 1H), 4.2-4.3 (m, 1H), 4.6-4.7 (m, 1H), 7.8-7.9 (m, 3H), 8.11 (d, J=6.8 Hz, 1H), 8.21 (d, J=9.3 Hz, 2H), 8.27 (d, J=7.2 Hz, 1H), 10.51 (s, 1H), 12.45 (br s, 1H); MS (LSIMS) m/e 488 (6, M+ +Na), 466 (23, M+ 1), 449 (7) 328 (15), 213 (44), 142 (100); [α]D20 -24.9° (c=1.0, DMF); Analysis calculated for C20H27N5O8 : C, 51.60; H, 5.85; N, 15.05; found: C, 50.16; H, 5.79; N, 14.06.

reactant | t-BOCValAlaAsp-p-nitroanilide | 0.33 mmole, 174 mg | N([C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(O)=O)C(=O)NC1=CC=C([N+](=O)[O-])C=C1)C(=O)OC(C)(C)C | C23H33N5O9
reactant | acetic acid N-hydroxysuccinimide ester | 0.40 mmole, 63 mg | CC(=O)ON1C(=O)CCC1=O | C6H7NO4
reactant | NaHCO3 | 1.65 mmole, 139 mg | C(=O)(O)[O-].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | HCl | 1N, 25 mL | Cl | ClH
product | AcValAlaAsp-p-nitroanilide | N([C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(O)=O)C(=O)NC1=CC=C([N+](=O)[O-])C=C1)C(=O)C | C20H27N5O8
